US06432950B1
Following the procedure of Example 97, the reaction of pyrazole with 2-chloro-6-methyl-4-(3-nitrobenzylamino)-thieno-[2,3-d]-pyrimidine gives 2-pyrazol-1-yl)-6-methyl-4-(3-nitrobenzylamino)-thieno-[2,3-d]-pyrimidine.

reactant | pyrazole | N1N=CC=C1 | C3H4N2
reactant | 2-chloro-6-methyl-4-(3-nitrobenzylamino)-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)C)NCC2=CC(=CC=C2)[N+](=O)[O-] | C14H11ClN4O2S
product | 6-methyl-4-(3-nitrobenzylamino)-thieno-[2,3-d]-pyrimidine | CC1=CC2=C(N=CN=C2NCC2=CC(=CC=C2)[N+](=O)[O-])S1 | C14H12N4O2S
